US07312241B2
(3-Cyclopentyloxy-4-methoxy-phenyl)-phenyl-methanone (0.5 g, 1.7 mmol), cyanomethylphosphonic acid diethyl ester (0.3 ml, 1.9 mmol) in anhydrous THF (10 ml), and lithium bis(trimethylsilyl)amide (1.3 M solution in THF, 1.4 ml, 1.9 mmol) were treated in the same manner as described above for the synthesis of 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile. The crude was purified by flash column chromatography to give 3-(3-cyclopentyloxy-4-methoxy-phenyl)-3-phenyl-acrylonitrile as a solid (0.41 g, 76%): mp, 90.6-93° C.; 1H NMR (CDCl3) δ 7.54-7.24 (m, 10H), 7.05-6.73 (m, 6H), 5.66 (s, 1H), 5.60 (s, 1H), 4.81-4.62 (m, 2H), 3.89 (s, 3H), 3.87 (s, 3H), 2.00-1.45 (m, 16H); 13C NMR (CDCl3) δ 162.8, 162.8, 152.2, 151.6, 147.4, 147.3, 139.5, 137.2, 130.2, 129.9, 129.6, 129.3, 128.7, 128.5, 128.4, 123.0, 121.8, 118.4, 118.3, 116.1, 114.8, 111.3, 93.2, 92.7, 80.6, 56.0, 32.8, 32.7, 24.1, 24.0; Anal. Calcd. For C21H21NO2: C, 78.97; H, 6.63; N, 4.39. Found: C, 78.85; H, 6.59; N, 4.31.

reactant | (3-Cyclopentyloxy-4-methoxy-phenyl)-phenyl-methanone | 1.7 mmol, 0.5 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(=O)C1=CC=CC=C1 | C19H20O3
reactant | cyanomethylphosphonic acid diethyl ester | 1.9 mmol, 0.3 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis(trimethylsilyl)amide | 1.9 mmol, 1.3 M, 1.4 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)OC | C18H17NO3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(3-cyclopentyloxy-4-methoxy-phenyl)-3-phenyl-acrylonitrile | 0.41 g, 76% | C1(CCCC1)OC=1C=C(C=CC1OC)C(=CC#N)C1=CC=CC=C1 | C21H21NO2
